US04661501
A mixture of 5.0 g of 1-(3-phenoxyphenyl)-4-(4-methoxyphenyl)-4-methylpentane, 30 ml of 47% aq HBr and 30 ml of acetic acid was refluxed with heating for eight hours. The reaction mixture was poured into water and extracted with benzene. The benzene extract was washed with water and dried, and the solvent was evaporated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: benzene) to give 4.2 g of 1-(3-phenoxyphenyl)-4-(4-hydroxyphenyl)-4-methylpentane.

reactant | 1-(3-phenoxyphenyl)-4-(4-methoxyphenyl)-4-methylpentane | 5.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCC(C)(C)C1=CC=C(C=C1)OC | C25H28O2
reactant | HBr | 30 ml | Br | BrH
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(3-phenoxyphenyl)-4-(4-hydroxyphenyl)-4-methylpentane | 4.2 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCC(C)(C)C1=CC=C(C=C1)O | C24H26O2
